data/oMe_Silver.jsonl
{"reaction_id": "NR-134_1-C1CCCCC1_2-c1ccc(c2ccccc2)cc1","name": "Lombardo Methylenation","level": "medium","reactants_smiles": ["C(=O)(C1CCCCC1)(c1ccc(c2ccccc2)cc1)","C(Br)Br","[Zn]","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C)(C1CCCCC1)(c1ccc(c2ccccc2)cc1)"],"conditions": "CH2Br2, Zn, TiCl4","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "BrC[Zn]Br","rationale": "Zn inserts into the C–Br bond of CH2Br2 via oxidative addition due to the polarizable C–Br bond and Zn’s reducing ability, forming an organozinc intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "Br[Zn]C[Zn]Br","rationale": "A second oxidative addition to CH2Br2 occurs because Zn can further activate the methylene carbon, producing a geminal bis(zinc) species with enhanced nucleophilicity."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "Br[Zn]C[Ti](Cl)(Cl)Cl","rationale": "The organozinc transfers the methylene fragment to TiCl4 via electrophilic substitution, favored by Ti’s strong Lewis acidity and the good leaving ability of Zn–Br."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O[Ti](Cl)(Cl)Cl)(C1CCCCC1)(c1ccc(c2ccccc2)cc1)C[Zn]Br","rationale": "The titanium–carbene species adds nucleophilically to the carbonyl carbon, driven by the electrophilicity of the carbonyl and stabilization of the alkoxide by Ti coordination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C)(C1CCCCC1)(c1ccc(c2ccccc2)cc1)","rationale": "Elimination occurs as the alkoxide–Ti complex collapses, expelling Ti–O and forming the C=C bond, driven by the thermodynamic stability of the alkene."}],"description": "In the Lombardo methylenation, Zn activates CH2Br2 to form a zinc carbenoid, which is then transferred to TiCl4 to generate a titanium–carbene species. This electrophilic carbene adds to the carbonyl, and elimination yields the alkene."}
{"reaction_id": "NR-224_1-c1cnccc1","level": "hard","name": "Pinner Reaction","reactants_smiles": ["C(c1cnccc1)#N"],"products_smiles": ["C(c1cnccc1)(=[NH2+])OCC"],"conditions": "HCl, EtOH","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)#[NH+]","step_weight": 0,"rationale": "Protonation of the nitrile nitrogen by HCl increases the electrophilicity of the adjacent carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccc1)(=[NH])[OH+](CC)","step_weight": 0,"rationale": "Ethanol, activated by the acidic medium, attacks the electrophilic nitrilium carbon, forming a tetrahedral intermediate stabilized by protonation."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(=[NH2+])OCC","step_weight": 0,"rationale": "Proton transfer to the nitrogen generates a more stable cationic imidate species, facilitating subsequent nucleophilic addition steps."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccc1)(N)([NH2])OCC","step_weight": 0,"rationale": "A second nucleophilic addition occurs as ammonia-like nitrogen attacks the electrophilic carbon, driven by the high reactivity of the imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(N)([NH2])[OH+]CC","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group by increasing its positive charge, preparing for elimination."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1cnccc1)(N)=[NH2+]","step_weight": 0,"rationale": "Loss of the protonated hydroxyl group as water occurs readily under acidic conditions, driven by the stability of the resulting iminium ion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=C(N)C(c1cnccc1)","step_weight": 0,"rationale": "Final proton transfer neutralizes the product, yielding the imino ester salt stabilized by resonance between C=N and the adjacent nitrogen."}],"description": "Under strongly acidic conditions, the nitrile nitrogen is protonated, increasing electrophilicity at the carbon. Ethanol attacks, forming an imidate intermediate. Subsequent proton transfers and addition-elimination steps stabilize intermediates and expel leaving groups, yielding the imino ester (Pinner salt) product."}
